US08859591B2
To a solution of 2-chloro-5-nitropyrimidine (1.5 g, 9.4 mmol) and 4-(trifluoromethyl)-1H-pyrazole (1.41 g, 10.3 mmol) in acetonitrile (40 mL) was added potassium carbonate (2.60 g, 18.8 mmol). The reaction was heated to 80° C. and stirred overnight. The reaction was concentrated and the residue was diluted with water and extracted with ethyl acetate (2×40 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography gave 5-nitro-2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyrimidine (1.5 g, 62%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 9.48 (s, 2H), 8.92 (s, 1H), 8.05 (s, 1H).

reactant | 2-chloro-5-nitropyrimidine | 9.4 mmol, 1.5 g | ClC1=NC=C(C=N1)[N+](=O)[O-] | C4H2ClN3O2
reactant | 4-(trifluoromethyl)-1H-pyrazole | 10.3 mmol, 1.41 g | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | potassium carbonate | 18.8 mmol, 2.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 5-nitro-2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyrimidine | 1.5 g, 62% | [N+](=O)([O-])C=1C=NC(=NC1)N1N=CC(=C1)C(F)(F)F | C8H4F3N5O2
